US07598255B2
2-Cyclopentyl-4-(4-fluoro-phenyl)-7-methyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine
To a solution of 2-cyclopentyl-4-(4-fluoro-phenyl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine (0.035 g, 0.112 mmol) in MeOH (1 mL) was added formaldehyde (37% in water; 0.10 mL) and NaBH(OAc)3 (0.032 g, 0.151 mmol). After the reaction was judged complete, the mixture was diluted with 1 N NaOH and extracted with CH2Cl2 (3×). The combined organic layers were dried and concentrated. The resulting residue was purified via SiO2 chromatography (1-7% 2 M NH3 in MeOH/CH2Cl2) to give 0.031 g (87%) of the title compound. MS (ESI): exact mass calcd. for C20H24FN3, 325.20; m/z found, 326.4 [M+H]+. 1H NMR (CDCl3): 7.47 (dd, J=5.4, 8.8, 2H), 7.15 (t, J=8.7, 2H), 3.38-3.30 (m, 1H), 3.20 (dd, J=4.1, 6.3, 2H), 2.97 (dd, J=4.2, 5.9, 2H), 2.71-2.70 (m, 2H), 2.60 (m, 2H), 2.41 (s, 3H), 2.12-2.05 (m, 2H), 1.99-1.91 (m, 2H), 1.87-1.79 (m, 2H), 1.73-1.63 (m, 2H). The following compounds in Examples 59-62 were prepared using methods similar to those described in Example 58, starting with the corresponding unmethylated azepines from the preceding examples.

reactant | 2-cyclopentyl-4-(4-fluoro-phenyl)-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | 0.112 mmol, 0.035 g | C1(CCCC1)C=1N=C(C2=C(CCNCC2)N1)C1=CC=C(C=C1)F | C19H22FN3
reactant | formaldehyde | 0.10 mL | C=O | CH2O
reactant | NaBH(OAc)3 | 0.151 mmol, 0.032 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | MeOH | 1 mL | CO | CH4O
solvent | NaOH | 1 N | [OH-].[Na+]
product | 2-Cyclopentyl-4-(4-fluoro-phenyl)-7-methyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-d]azepine | 0.031 g, 87% | C1(CCCC1)C=1N=C(C2=C(CCN(CC2)C)N1)C1=CC=C(C=C1)F | C20H24FN3
